US04407806
To a 100 ml Erlenmeyer flask equipped with a reflux condensor is added 2.54 gm of 3-pyridyl-2,4-dichlorophenylcarbinol and 30 ml of chloroform. The system is cooled to 0° C. and 1.31 gm (1.2 equivalents) of thionyl chloride in 25 ml of chloroform is added over 1/2-hour. After addition of the thionyl chloride, the system is allowed to come to room temperature and stirred there for 2 hours. The system is then heated at reflux for 1 hour. The chloroform is removed by stripping to give the alpha-chloro-alpha-(3-pyridyl)-2,4-dichlorotoluene hydrochloride salt.

reactant | 3-pyridyl-2,4-dichlorophenylcarbinol | 2.54 gm | N1=CC(=CC=C1)C(O)C1=C(C=C(C=C1)Cl)Cl | C12H9Cl2NO
reactant | thionyl chloride | 1.31 gm, 1.2 equivalents | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | alpha-chloro-alpha-(3-pyridyl)-2,4-dichlorotoluene hydrochloride salt | Cl.ClC(C1=C(C=C(C=C1)Cl)Cl)C=1C=NC=CC1 | InChI=1S/C12H8Cl3N.ClH/c13-9-3-4-10(11(14)6-9)12(15)8-2-1-5-16-7-8;/h1-7,12H;1H
